US08420690B2
b) 1,1-dimethylethyl ((1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)carbamate
To a solution of 1,1-dimethylethyl ((1S)-2-hydroxy-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)carbamate (4.2 g, 13.2 mmol), triphenylphosphine (4.5 g, 17.1 mmol) and phthalimide (1.9 g, 13.2 mmol) in THF (66 mL) at 25° C. was added diethyl azodicarboxylate (2.7 mL, 17.1 mmol). After stirring at RT for 1 h, the reaction solution was concentrated under vacuum and the residue purified on silica gel (1% MeOH in DCM) affording the title compound (3.2 g, 54%) as a white solid: LCMS (ES) m/z 449 (M+H)+.

reactant | 1,1-dimethylethyl ((1S)-2-hydroxy-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)carbamate | 13.2 mmol, 4.2 g | OC[C@H](CC1=C(C=CC=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C15H20F3NO3
reactant | triphenylphosphine | 17.1 mmol, 4.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 13.2 mmol, 1.9 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | 17.1 mmol, 2.7 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 66 mL | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl ((1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)carbamate | 3.2 g, 54% | O=C1N(C(C2=CC=CC=C12)=O)C[C@H](CC1=C(C=CC=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C23H23F3N2O4
